US07875728B2
4-(isoquinolin-5-ylhydrazono)-5-methyl-4H-pyrazol-3-ylamine was prepared from 5-aminoisoquinoline (0.7 g, 4.9 mmol) and 3-amino-5-methylpyrazole (0.6 g, 6.2 mmol) according to the procedure described above except that the substituted aniline was initially dissolved in a mixture of water (6.0 mL) and DMF (6.0 mL) prior to being acidified. The crude material was purified by chromatography eluting with (CH2Cl2:MeOH=6:1) to yield 0.089 g (7%) of the compound as a red solid. MS (m/z, ES+): 253.2 (M+1, 50%), 129 (M−123, 100%).

reactant | 5-aminoisoquinoline | 4.9 mmol, 0.7 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | 3-amino-5-methylpyrazole | 6.2 mmol, 0.6 g | NC1=NNC(=C1)C | C4H7N3
reactant | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | water | 6.0 mL | O | H2O
product | 4-(isoquinolin-5-ylhydrazono)-5-methyl-4H-pyrazol-3-ylamine | C1=NC=CC2=C(C=CC=C12)NN=C1C(=NN=C1C)N | C13H12N6
